US08981084B2
A mixture of BINAP (31 mg, 0.05 mmol) and Pd2dba3 (230 mg, 0.03 mmol) were taken in toluene and the solution was heated to 85° C. for 10 min under argon atmosphere. The solution was cooled to 40° C. and (1S,4S)-2-boc-2,5-diazabicyclo[2.2.1]heptane (250 mg, 1.26 mmol) was added, followed by 2-bromo pyridine (218 mg, 1.38 mmol) and sodium tert-butoxide (194 mg, 2.0 mmol). The reaction mixture was heated to 85° C. for 5 h, cooled to room temperature, diluted with EtOAc and filtered through Celite. The organic layer was washed with water and brine, dried over anhydrous Na2SO4, and concentrated under reduced pressure. The crude product was purified by column chromatography (silica 60-120 mesh, eluent 20-30% EtOAc in petroleum ether) to get (1S,4S)-tert-butyl 5-(pyridin-2-yl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate (170 mg, yield 49%). 1H NMR (300 MHz, CDCl3) δ 8.14 (d, J=4.6 Hz, 1H), 7.47-7.42 (t, J=7.7 Hz, 1H), 6.59-6.55 (m, 1H), 6.35-6.32 (d, J=8.6 Hz, 1H), 4.90-4.79 (m, 1H), 4.67-4.52 (m, 1H), 3.57-3.35 (m, 4H), 1.96-1.92 (m, 2H), 1.46-1.42 (m, 9H). MS (ESI) m/z: Calculated for C15H21N3O2: 275.16. found: 276.1 (M+H)+

reactant | (1S,4S)-2-boc-2,5-diazabicyclo[2.2.1]heptane | 1.26 mmol, 250 mg | C(=O)(OC(C)(C)C)N1[C@@H]2CN[C@H](C1)C2 | C10H18N2O2
reactant | 2-bromo pyridine | 1.38 mmol, 218 mg | BrC1=NC=CC=C1 | C5H4BrN
reactant | sodium tert-butoxide | 2.0 mmol, 194 mg | CC(C)([O-])C.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2dba3 | 0.03 mmol, 230 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | BINAP | 0.05 mmol, 31 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | (1S,4S)-tert-butyl 5-(pyridin-2-yl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | 170 mg, yield 49% | N1=C(C=CC=C1)N1[C@@H]2CN([C@H](C1)C2)C(=O)OC(C)(C)C | C15H21N3O2
